US08119692B2
(S)-2-((R)-2-(4-Fluoro-3-methylphenyl)-2-methoxyethyl)-N-hydroxypent-4-enamide (Compound 167673)
(S)-Methyl 2-((R)-2-(4-fluoro-3-methylphenyl)-2-methoxyethyl)pent-4-enoate (50 mg) was dissolved into 1 mL of a mixture of THF, methanol, and 50% NH2OH in H2O (2:2:1) and to this solution was added 2 mg KCN. The reaction was stirred for 3 days at room temperature and then quenched by the addition of 1M HCl (10 mL). The mixture was extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with brine (2×10 mL) before being concentrated under reduced pressure. The product was isolated by flash column chromatography eluting with 0% to 10% methanol/DCM to obtain the title compound (34 mg) as white solid.

reactant | (S)-Methyl 2-((R)-2-(4-fluoro-3-methylphenyl)-2-methoxyethyl)pent-4-enoate | 50 mg | FC1=C(C=C(C=C1)[C@@H](C[C@@H](C(=O)OC)CC=C)OC)C | C16H21FO3
reactant | THF | C1CCOC1 | C4H8O
reactant | NH2OH | NO | H3NO
reactant | KCN | 2 mg | [C-]#N.[K+]
solvent | H2O | O | H2O
solvent | methanol | CO | CH4O
product | (S)-2-((R)-2-(4-Fluoro-3-methylphenyl)-2-methoxyethyl)-N-hydroxypent-4-enamide | 34 mg | FC1=C(C=C(C=C1)[C@@H](C[C@@H](C(=O)NO)CC=C)OC)C | C15H20FNO3
